US09034880B2
Preparation of the title compound was carried out according to General Method 8. 4-Chlorophenylhydrazine hydrochloride (1 g, 5.5 mmol), 1-bromo-2-cyclohexylethane (0.87 ml, 5.5 mmol), triethyl amine (2.31 ml, 16.6 mmol) and N-methyl-4-piperidone hydrochloride (810 mg, 5.5 mmol) were combined in ethanol (10 ml) to obtain 16 mg of 8-chloro-5-(2-cyclohexylethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole after purification on silica gel (230-400 mesh) chromatography eluting with acetone-hexane gradient. The free base was converted into its oxalate salt by treatment of oxalic acid (1 equiv.) in anhydrous THF.

reactant | 4-Chlorophenylhydrazine hydrochloride | 5.5 mmol, 1 g | Cl.ClC1=CC=C(C=C1)NN
reactant | 1-bromo-2-cyclohexylethane | 5.5 mmol, 0.87 ml | BrCCC1CCCCC1 | C8H15Br
reactant | triethyl amine | 16.6 mmol, 2.31 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-4-piperidone hydrochloride | 5.5 mmol, 810 mg | Cl.CN1CCC(CC1)=O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 8-chloro-5-(2-cyclohexylethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 16 mg | ClC1=CC=2C3=C(N(C2C=C1)CCC1CCCCC1)CCN(C3)C | C20H27ClN2
